US08071581B2
Step 5: 4-(6-Phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-benzene-1,2-diamine
A mixture of 2-nitro-4-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-phenylamine (89 mg, 0.257 mmol) and 10% wt Pd/C (27 mg, 0.026 mmol) in methanol (4 mL), tetrahydrofuran (2 mL), and dimethylformamide (2 mL) was stirred at room temperature under hydrogen atmosphere for 4 h. Catalyst was filtered through celite and the filtrate was concentrated and dried in vacuo to provide 81 mg of the product as a beige solid. 1HNMR (DMSO) δ 4.30 (s, 2H), 4.32 (s, 2H), 4.43 (s, 2H), 6.43 (m, 2H), 6.50 (s, 1H), 7.60 (m, 3H), 7.93 (d, 1H), 8.11 (m, 2H), 8.39 (d, 1H); MS (m/z) 317 [M+H+]+.

reactant | 2-nitro-4-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-phenylamine | 0.257 mmol, 89 mg | [N+](=O)([O-])C1=C(C=CC(=C1)CC1=NN=C2N1N=C(C=C2)C2=CC=CC=C2)N | C18H14N6O2
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.026 mmol, 27 mg | [Pd] | Pd
product | 4-(6-Phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-benzene-1,2-diamine | 81 mg | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C(C(=CC2)N)N | C18H16N6
